US06642229B2
2-Amino-4-chloropyrimidine (1.00 g, 7.72 mmol) and sodium methoxide (1.25 g, 23.2 mmol) were suspended in methanol (20 ml) and heated under reflux for 2 h then cooled to ambient temperature. Chloroacetaldehyde (2.4 ml of a 45% w/w solution in water, 15.44 mmol) was added and the mixture heated under reflux for 22 h, allowed to cool to ambient temperature then pre-adsorbed directly onto silica. Purification by chromatography on silica gel eluting with dichloromethane (containing 1% conc. ammonia) on a gradient of methanol (1-4%) gave 7-methoxyimidazo[1,2-a]pyrimidine (0.77 g, 67%) as a white crystalline solid: δH (400 MHz, CDCl3) 4.04 (3H, s), 6.41 (1H, d, J 7), 7.31 (1H, d, J 1), 7.50 (1H, d, J 1), 8.17 (1H, d, J 7).

reactant | 2-Amino-4-chloropyrimidine | 7.72 mmol, 1.00 g | NC1=NC=CC(=N1)Cl | C4H4ClN3
reactant | sodium methoxide | 23.2 mmol, 1.25 g | C[O-].[Na+]
reactant | Chloroacetaldehyde | ClCC=O | C2H3ClO
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 7-methoxyimidazo[1,2-a]pyrimidine | 0.77 g, 67% | COC1=NC=2N(C=C1)C=CN2 | C7H7N3O
